US09034882B2
To a solution of (S)-methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate (0.050 g, 0.107 mmol, 1 equiv) in dioxane (1.0 mL) was added 2-bromo-4-phenylpyridine (0.030 g, 0.128 mmol, 1.2 equiv), hexabutyldistannane (0.12 mL, 0.235 mmol, 2.2 equiv), and Pd(PPh3)4 (0.012 g, 0.011 mmol, 0.1 equiv). The reaction was heated at 85° C. for 72 h. The reaction temperature was then lowered to 60° C. Methanol (1 mL), water (0.3 mL), and LiOH.H2O (26 mg, 1.07 mmol, 10 equiv) added and heating was continued for 2 h. Upon completion of the saponification, the reaction was removed from heat and filtered through a syringe filter. The crude reaction mixture was purified via preparative LC/MS with the following conditions: Column: Waters XBridge C18, 19×200 mm, 5-μm particles; Guard Column. Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: water with 20-mM ammonium acetate; Mobile Phase B: 95:5 acetonitrile:water with 20-mM ammonium acetate; Gradient: 45-85% B over 20 minutes, then a 5-minute hold at 100% B; Flow: 20 mL/min, to provide (S)-2-(tert-butoxy)-2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-(4-phenylpyridin-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (3.5 mg, 6%). 1H NMR (500 MHz, DMSO-d6) δ 8.73 (d, J=4.9 Hz, 1H), 8.48 (s, 1H), 7.83 (d, J=7.6 Hz, 2H), 7.75 (d, J=4.0 Hz, 1H), 7.60-7.49 (m, 3H), 7.06 (s, 1H), 5.72 (br. s., 1H), 3.61-3.55 (m, 4H), 2.53 (s, 3H), 1.65 (br. s., 2H), 1.50 (br. s., 2H), 1.18 (s, 9H), 1.11 (br. s., 6H). LCMS (ESI, M+1): 528.3.

reactant | (S)-methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate | 0.107 mmol, 0.050 g, 1 equiv | BrC1=NN2C(N=C(C(=C2N2CCC(CC2)(C)C)[C@@H](C(=O)OC)OC(C)(C)C)C)=C1 | C21H31BrN4O3
reactant | 2-bromo-4-phenylpyridine | 0.128 mmol, 0.030 g, 1.2 equiv | BrC1=NC=CC(=C1)C1=CC=CC=C1 | C11H8BrN
reactant | hexabutyldistannane | 0.235 mmol, 0.12 mL, 2.2 equiv | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | LiOH.H2O | 1.07 mmol, 26 mg, 10 equiv | O[Li].O
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.011 mmol, 0.012 g, 0.1 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.3 mL | O | H2O
solvent | Methanol | 1 mL | CO | CH4O
product | (S)-2-(tert-butoxy)-2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-(4-phenylpyridin-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 3.5 mg, 6% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1N1CCC(CC1)(C)C)N=C(C2)C2=NC=CC(=C2)C2=CC=CC=C2)C | C31H37N5O3
